US06071903
To a cooled (0° C.) solution of 1.0 g (2.66 mmol) of 4-(4-methoxybenzenesulfonyl)-2,3,4,5-tetrahydro-1H-[1,4]benzodiazepine-3-carboxylate from Reference Example 12 and 1.85 ml (13.3 mmol) of triethylarnine in 8 ml of CH2Cl2 was added 1.17 g (6.65 mmol) of 2,4-dimethoxybenzoyl chloride. The mixture was stirred at room temperature overnight, diluted with CH2Cl2 and washed with 2N citric acid. The organic layer was washed with H2O, 1N Na2CO3, brine and dried over Na2SO4. The solvent was removed and the residue was chromatographed on thick layer silica gel plates with ethyl acetate-hexane (1:1) as an eluent to give 1.0 g of methyl 1-(2,4-dimethoxybenzoyl)-4-(4-methoxybenzenesulfonyl)-2,3,4,5-tetrahydro-1H-[1,4]benzodiazepine-3-carboxylate as a white foam. Anal. for C27H28H2O8S: Calc'd: C,60.0; H,5.2; N,5.2; Found: C,60.0; H,5.2; N,5.1; Mass Spectrum (ES): 541.0 (M+H).

reactant | 4-(4-methoxybenzenesulfonyl)-2,3,4,5-tetrahydro-1H-[1,4]benzodiazepine-3-carboxylate | 2.66 mmol, 1.0 g | COC1=CC=C(C=C1)S(=O)(=O)N1C(CNC2=C(C1)C=CC=C2)C(=O)[O-]
reactant | triethylarnine | 13.3 mmol, 1.85 ml | C(C)N(CC)CC | C6H15N
reactant | 2,4-dimethoxybenzoyl chloride | 6.65 mmol, 1.17 g | COC1=C(C(=O)Cl)C=CC(=C1)OC | C9H9ClO3
solvent | CH2Cl2 | 8 ml | C(Cl)Cl | CH2Cl2
product | methyl 1-(2,4-dimethoxybenzoyl)-4-(4-methoxybenzenesulfonyl)-2,3,4,5-tetrahydro-1H-[1,4]benzodiazepine-3-carboxylate | 1.0 g | COC1=C(C(=O)N2CC(N(CC3=C2C=CC=C3)S(=O)(=O)C3=CC=C(C=C3)OC)C(=O)OC)C=CC(=C1)OC | C27H28N2O8S
